US06130228
1, 2, 3, 4-Tetrahydro-1-methylene-napthalene (Intermediate Leading to Compound 33)
N-Butyl lithium (Aldrich) (47 cm3, 74.8 mmol, 1.6 M solution in hexane) was added dropwise to a solution of methyl triphenylphosphonium iodide (Aldrich) (27.65 g, 68 mmol) in dry THF (150 cm3), under nitrogen at 0° C. α-Tetralone (Aldrich) (10 g, 68 mmol) in dry THF (100 cm3 was then added dropwise and the mixture stirred for 17 hours at room temperature. The reaction mixture was then added to water and extracted with ethyl acetate. The combined extracts were then dried (Na2SO4), filtered and concentrated in vacuo. Purification was by column chromatography on a neutralised silica column (Et3N) (Eluant: Pet. Ether 40-60° C.) produced a colourless mobile oil.

reactant | methyl triphenylphosphonium iodide | 68 mmol, 27.65 g | [I-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | α-Tetralone | 68 mmol, 10 g | C1CC2=CC=CC=C2C(=O)C1 | C10H10O
reactant | water | O | H2O
solvent | THF | 150 cm3 | C1CCOC1 | C4H8O
product | 1, 2, 3, 4-Tetrahydro-1-methylene-napthalene | C=C1CCCC2=CC=CC=C12 | C11H12
